US04632925
3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine;
3-[7-[4-(2,2-diphenylethenyl)-1-piperidinyl]heptyl]pyridine (1:1)-(E)-2-butenedioate salt hemihydrate;

reactant | 3-[7-[4-(2,2-diphenylethenyl)-1-piperidinyl]heptyl]pyridine | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C31H38N2
reactant | (E)-2-butenedioate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C32H40N2
